US08193236B2
Methanesulfonic acid 2-methyl-3-[4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-pyrazolo[1,5-a]pyridin-5-ylmethyl ester
Methanesulfonic anhydride (815 mg, 4.49 mmol, 4.3 equiv) is added at room temperature under an atmosphere of argon to a solution of 3-(5-hydroxymethyl-2-methyl-pyrazolo[1,5-a]pyridin-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (400 mg, 1.04 mmol) and of triethyl amine (0.314 ml, 2.25 mmol, 2.2 equiv) in anhydrous THF (10 ml). The reaction mixture is stirred for 1 hour at room temperature. Water is added, and the mixture is extracted three times with EtOAc. The combined organic layers are dried over Na2SO4, filtered, and concentrated in vacuo. The residue (450 mg, 94%) is used directly in the next transformation.

reactant | Methanesulfonic anhydride | 4.49 mmol, 815 mg, 4.3 equiv | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 3-(5-hydroxymethyl-2-methyl-pyrazolo[1,5-a]pyridin-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 1.04 mmol, 400 mg | OCC1=CC=2N(C=C1)N=C(C2C=2C(NC(C2C2=CNC1=C(C=CC=C21)C)=O)=O)C | C22H18N4O3
reactant | triethyl amine | 2.25 mmol, 0.314 ml, 2.2 equiv | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methanesulfonic acid 2-methyl-3-[4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-pyrazolo[1,5-a]pyridin-5-ylmethyl ester | CC1=NN2C(C=C(C=C2)COS(=O)(=O)C)=C1C=1C(NC(C1C1=CNC2=C(C=CC=C12)C)=O)=O | C23H20N4O5S
